* L-Network Impedance Match
V1 src 0 ac 1
Rs src in 50
L1 in out 13.78uH
C1 out 0 1.378nF
Rload out 0 200
.ac dec 100 500k 1.5MEG
.meas ac zin_mag FIND mag(v(in)/(-i(V1))) AT=1e6
.meas ac zin_real FIND real(v(in)/(-i(V1))) AT=1e6
.meas ac zin_imag FIND imag(v(in)/(-i(V1))) AT=1e6
.end
