* RC low-pass filter with C=350nF
Vin in 0 AC 1
Rs in out 1k
C out 0 350nF
Rload out 0 100k
.ac lin 2000 10 20000
.meas ac gain_200Hz_mag FIND v(out) AT=200
.meas ac gain_2kHz_mag FIND v(out) AT=2000
.control
run
.endc
.end
